US07745475B2
3-[(1S)-2-Methoxy-1-methylethoxy]-N-(1-methyl-1H-pyrazol-3-yl)-5-[4-(1H-pyrazol-3-yl)phenoxy]benzamide
A mixture of 3-{4-[(2E)-3-(dimethylamino)prop-2-enoyl]phenoxy}-5-[(1S)-2-methoxy-1-methylethoxy]-N-(1-methyl-1H-pyrazol-3-yl)benzamide (100 mg, 0.209 mmol) and hydrazine hydrate (0.204 mL, 4.18 mmol) in ethanol (3 mL) was heated to 100° C. for 5 minutes in a ‘Smith Creator’ microwave. The volatiles were removed in vacuo to give the product as a colourless foam (92 mg).

reactant | 3-{4-[(2E)-3-(dimethylamino)prop-2-enoyl]phenoxy}-5-[(1S)-2-methoxy-1-methylethoxy]-N-(1-methyl-1H-pyrazol-3-yl)benzamide | 0.209 mmol, 100 mg | CN(/C=C/C(=O)C1=CC=C(OC=2C=C(C(=O)NC3=NN(C=C3)C)C=C(C2)O[C@H](COC)C)C=C1)C | C26H30N4O5
reactant | hydrazine hydrate | 4.18 mmol, 0.204 mL | O.NN
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 3-[(1S)-2-Methoxy-1-methylethoxy]-N-(1-methyl-1H-pyrazol-3-yl)-5-[4-(1H-pyrazol-3-yl)phenoxy]benzamide | 92 mg | COC[C@@H](OC=1C=C(C(=O)NC2=NN(C=C2)C)C=C(C1)OC1=CC=C(C=C1)C1=NNC=C1)C | C24H25N5O4
